US08110573B2
IN NaOH (3.26 ml, 3.26 mmol) was added to a solution of cyano-cyclopropyl-acetic acid ethyl ester (0.5 g, 3.26 mmol) in THF (15 ml). After 4 hours stirring at 25° C., the reaction mixture was evaporated in vacuo, re-dissolved in water (20 ml) and neutralized by the addition of 1N HCl solution (3.26 ml). This mixture was then extracted with EtOAc (3×20 ml) and the combined, dried (Na2SO4) organics evaporated ill vacuo to give impure cyano-cyclopropyl-acetic acid as a clear oil. This material was used without any further purification in the preparation of Example 4B.

reactant | NaOH | 3.26 mmol, 3.26 ml | [OH-].[Na+]
reactant | cyano-cyclopropyl-acetic acid ethyl ester | 3.26 mmol, 0.5 g | C(C)OC(C(C1CC1)C#N)=O | C8H11NO2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | cyano-cyclopropyl-acetic acid | C(#N)C(C(=O)O)C1CC1 | C6H7NO2
